US07122545B2
To a suspension of 0.50 g 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboximidothioic acid methyl ester hydroiodide in 33 ml tetrahydrofurane was added 1.34 g 3-amino-4,4-diethoxy-piperidine-1-carboxylic acid tert-butyl ester and the mixture was stirred at room temperature for two days. Then 0.2 ml boron trifluoride etherate was added and the solvent was distilled off under vacuum. Again 0.2 ml boron trifluoride etherate was added and the mixture was dissolved in 30 ml dimethylformamide and heated for 10 minutes at 125° C. The solvent was distilled off and the residue was dissolved in dichloromethane and extracted with water. The organic layer was dried with sodium sulfate, filtered and the solvent was evaporated. Chromatography on silicagel with ethylacatate/hexane 1:1 followed by chromatography on aluminiumoxide with ethylacatate/hexane 1:1 yielded 0.18 g (35%) 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester as an amorphous solid; m/e=472 (M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboximidothioic acid methyl ester hydroiodide | 0.50 g | I.CSC(=N)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC
reactant | 3-amino-4,4-diethoxy-piperidine-1-carboxylic acid tert-butyl ester | 1.34 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)(OCC)OCC)N | C14H28N2O4
reactant | boron trifluoride etherate | 0.2 ml | B(F)(F)F.CCOCC
solvent | tetrahydrofurane | 33 ml | O1CCCC1 | C4H8O
product | 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester | 0.18 g, 35% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C23H29N5O4S
